US09302988B2
Step 3: Ethyl 1-benzyl-3-(4-chloro-2-fluorophenyl)-4-methyl-1H-pyrrole-2-carboxylate
A solution of ethyl 3-(4-chloro-2-fluorophenyl)-4-methyl-1H-pyrrole-2-carboxylate (5.7 g, 20.2 mmol) in dry DMF (25 mL) was added dropwise to a cooled suspension of 60% NaH in mineral oil (0.89 g, 22.3 mmol) in dry DMF (25 mL). The mixture was stirred at 0° C. for 20 min, then benzylbromide (2.54 mL, 21.3 mmol) was added dropwise. The mixture was stirred for 10 min at 0° C., the cooling was removed and stirring was continued for 2 h at room temperature. The reaction was quenched by addition of saturated aqueous NH4Cl/ice (1:1, 150 mL) and the product was extracted with EtOAc (150 mL). The combined organic layers were dried on Na2SO4 and evaporated. The residual crude product purified using column chromatography (silica, heptane/EtOAc 2:1) to give the desired product (6.6 g, 88%) as an orange oil.

reactant | ethyl 3-(4-chloro-2-fluorophenyl)-4-methyl-1H-pyrrole-2-carboxylate | 20.2 mmol, 5.7 g | ClC1=CC(=C(C=C1)C1=C(NC=C1C)C(=O)OCC)F | C14H13ClFNO2
reactant | NaH | [H-].[Na+]
reactant | benzylbromide | 21.3 mmol, 2.54 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | Ethyl 1-benzyl-3-(4-chloro-2-fluorophenyl)-4-methyl-1H-pyrrole-2-carboxylate | 6.6 g, 88% | C(C1=CC=CC=C1)N1C(=C(C(=C1)C)C1=C(C=C(C=C1)Cl)F)C(=O)OCC | C21H19ClFNO2
